US04511391
5-(3,4-Ethylenedioxyphenyl)-3-hydroxy-2-propionylcyclohex-2-en-1-one was prepared from 5-(3,4-ethylenedioxyphenyl)-3-hydroxycyclohex-2-en-1-one and propionic anhydride following essentially the same procedure as that described in Example 1 part (iii). The product was obtained as a crystalline solid, mp 155° C.

reactant | 5-(3,4-ethylenedioxyphenyl)-3-hydroxycyclohex-2-en-1-one | C1OC=2C=C(C=CC2OC1)C1CC(=CC(C1)=O)O | C14H14O4
reactant | propionic anhydride | C(CC)(=O)OC(CC)=O | C6H10O3
product | 5-(3,4-Ethylenedioxyphenyl)-3-hydroxy-2-propionylcyclohex-2-en-1-one | C1OC=2C=C(C=CC2OC1)C1CC(=C(C(C1)=O)C(CC)=O)O | C17H18O5
